US04055593
To a 250 ml roundbottom borosilicate flask containing 0.4 g of 15(S)-hydroxy-9-oxo-8(12),13-trans-prostadienoic acid in 15 ml of methylene chloride is added 5 ml of isopropoxyisopropenyl ether and 0.01 ml of phosphorus oxychloride and the flask's contents allowed to react at 20° C for 36 hours. Next, the reaction product is diluted with 25 ml of ether and washed with 50% brine and saturated brine until the solution is neutral. Next, the residue is extracted with methylene chloride, filtered, and freed of solvent under reduced pressure, dried over anhydrous magnesium sulfate, the give 15(S)-(dimethyl' isopropoxy' methyloxy)-9-oxo-8(12),13-trans-prostadienoic acid.

reactant | 15(S)-hydroxy-9-oxo-8(12),13-trans-prostadienoic acid | 0.4 g | O[C@H](/C=C/C=1CCC(C1CCCCCCC(=O)O)=O)CCCCC | C20H32O4
reactant | isopropoxyisopropenyl ether | 5 ml | C(C)(C)OC=C(C)OC(=COC(C)C)C | C12H22O3
reactant | phosphorus oxychloride | 0.01 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 25 ml | CCOCC | C4H10O
product | 9-oxo-8(12),13-trans-prostadienoic acid | O=C1C(CCCCCCC(=O)O)=C(CC1)\C=C\CCCCCC | C20H32O3
